* C:\Users\German\Documents\equipo_medicion_ensayo_celdas\Simulaciones\modulo_descarga\modulo_carga_descarga_ac_imp.asc
* Generated by LTspice 24.1.9 for Windows.
Rs N022 VGND 100m
Q1 N005 N006 in2 0 2N2222
Q2 in2 N005 C1 0 TIP36C
Q3 N023 B in2 0 2N2907
Q4 in2 N023 0 0 TIP35C
VBAT N024 N022 4.1
R4 N007 VGND 10k
R10 in N007 91K
D2 N020 B 1N4148
R3 C1 N006 1k
X§U1 N007 N009 C1 0 N008 LMX24_LM2902
C1 N008 N009 1n
R11 N022 N009 9.1k
D3 B N013 1N4148
X§U3 N011 N014 C1 0 N013 LMX24_LM2902
C2 N013 N014 1n
V§ADC2 N016 0 2.1
R13 N014 N022 30k
R12 in2 N014 30k
D1 N006 N020 1N4148
D4 B N008 1N4148
V8 C1 0 12
Q8 N010 N012 N015 0 2N2222
Q9 N015 N010 C1 0 TIP36C
Q10 N027 N026 N025 0 2N2907
Q11 N025 N027 0 0 TIP35C
D5 N021 N026 1N4148
R15 C1 N012 1K
D7 N012 N021 1N4148
R16 N015 VGND 100m
R17 N026 0 1K
R20 VGND N025 100m
R2 in2 N024 10m
X§U2 N002 N003 C1 0 in LMX24_LM2902
R1 0 N003 100k
R5 N002 N001 150K
R6 N002 N004 150K
V§DAC1 N004 0 PULSE(0 0 1m 1n 1n 99m 100m 30)
R7 in N003 200k
X§U4 N019 VGND C1 0 N021 LMX24_LM2902
R8 C1 N019 10K
R9 N019 0 2k
V1 N001 0 SINE(0 100m 1k 0 0 0 80)
R23 N002 VGND 150K
X§U7 N017 N018 C1 0 N011 LMX24_LM2902
R24 0 N018 100k
R25 N017 N016 150K
R26 N017 N022 150K
R27 N011 N018 200k
R28 N017 0 150K
R14 C1 N016 100k
R18 N016 0 100K
.model D D
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50m 0 1000
* .ac dec 1000 0.01 100Meg
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.inc OPAx188.lib
.model D4V1 D(Ron=0 Roff=1Meg Vfwd=0.7 Vrev=4.1)
.inc lmx24_lm2902.lib
* FUENTE PARTIDA
* MÓDULO CARGA/DESCARGA/ACIR
* ENTRADA CONTROL DE CORRIENTE
.backanno
.end
